US03991082
4-(Aminomethylene)-1-benzoxepin-3,5(2H, 4H)-dione
Concentrated ammonium hydroxide (1300ml) was added to a stirred mixture of 108g (0.041 mole) of 3(bromoacetyl)chromone and 500ml of methanol. All solid went into solution. There was a mild exotherm. After several minutes the product began to separate. After one hour, the reddish-tan solid was filtered, washed well with water and dried; wt. 70g (86%); m.p. 149°-151°. Recrystallization from ethyl acetate gave pure, orange crystals; m.p. 151°-153°.

reactant | ammonium hydroxide | 1300ml | [OH-].[NH4+]
reactant | 3(bromoacetyl)chromone | BrCC(=O)C1=COC2=CC=CC=C2C1=O | C11H7BrO3
solvent | methanol | 500ml | CO | CH4O
product | 4-(Aminomethylene)-1-benzoxepin-3,5(2H, 4H)-dione | NC=C1C(COC2=C(C1=O)C=CC=C2)=O | C11H9NO3
